2142-06-27 06:35:00 Physician Resident Progress Note
Chief Complaint: Hematochezia
   24 Hour Events:
   Tagged red cell scan negative
   Last bloody BM at 10am [**6-26**]
   Access difficult, in for Power PICC today
   Received total 2U PRBC [**6-26**]
 NUCLEAR MEDICINE - At [**2142-6-26**] 03:00 PM
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aching;
   Zocor (Oral) (Simvastatin)
   muscle aching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-6-27**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 53 (53 - 131) bpm
   BP: 124/50(69) {96/48(62) - 139/82(85)} mmHg
   RR: 10 (7 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 53 Inch
                  Total In:
                                                                  2,782 mL
                                                                    283 mL
   PO:
                  TF:
   IVF:
                                                                    650 mL
   Blood products:
                                                                    467 mL
                                                                    283 mL
   Total out:
                                                                  1,730 mL
                                                                  1,100 mL
   Urine:
                                                                    800 mL
                                                                  1,100 mL
   NG:
   Stool:
                                                                    930 mL
   Drains:
   Balance:
                                                                  1,052 mL
                                                                   -817 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   286 K/uL
   10.8 g/dL
   90 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.2 mEq/L
   19 mg/dL
   108 mEq/L
   140 mEq/L
   30.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2142-6-24**]  10:46 AM
                             [**2142-6-24**]  04:33 PM
                             [**2142-6-24**]  10:08 PM
                             [**2142-6-25**]  04:51 AM
                             [**2142-6-25**]  01:04 PM
                             [**2142-6-25**]  06:03 PM
                             [**2142-6-26**]  05:01 AM
                             [**2142-6-26**]  12:32 PM
                             [**2142-6-26**]  09:35 PM
                             [**2142-6-27**]  03:42 AM
   WBC
   13.0
   12.7
   8.2
   Hct
   30.8
   31.6
   26.0
   27.1
   33.2
   27.6
   30
   24.3
   26.9
   30.4
   Plt
   [**Telephone/Fax (3) 3966**]
   Cr
   1.1
   1.0
   1.0
   TCO2
   25
   Glucose
   108
   114
   192
   90
   Other labs: PT / PTT / INR:13.4/18.4/1.1, Differential-Neuts:78.1 %,
   Lymph:17.6 %, Mono:2.9 %, Eos:1.2 %, Lactic Acid:0.8 mmol/L, Ca++:7.7
   mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   Patient presented with LGIB in the setting of recently being started on
   Coumadin for atrial fibrillation. She underwent a colonoscopy which
   showed fresh and old blood in the colon. She then underwent a tagged
   RBC scan which was negative. The patient has not had any bloody stools
   for the past 24 hours and her hematocrit has remained stable.
   -          Hct [**Hospital1 **]
   -          Continue to hold Coumadin; will need to be restarted on
   Plavix and ASA 81mg tomorrow
   -          Advance diet to full liquids and then regular if able to
   tolerate
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE):  Patient has
   significant history with multiple stents. She has not had any chest
   pain during this admission.  She was on ASA and Plavix as an
   outpatient.
   -          Restart ASA and Plavix starting tommorow
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA:
   Restart ASA and Plavix tomorrow.
 RENAL ARTERY STENOSIS (RAS): Restart Plavix and ASA tomorrow.
 ATRIAL FIBRILLATION (AFIB): Recently diagnosed after undergoing
   lobectomy for lung cancer. Her rate has been well controlled but she
   does have episodes where her heart rate does increase to mid 100
   -          Continue Amiodarone
   -          Hold Coumadin; talk to patient
s cardiologist (Dr. [**Last Name (STitle) 3979**]
   re: anticoagulation
   -          Patient may benefit from beta-[**Last Name (LF) 368**], [**First Name3 (LF) 178**] hold off for now
   given acute bleed
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE): Cr 1.0 today. Continue to monitor daily.
 CANCER (MALIGNANT NEOPLASM), LUNG: s/p lobectomy for lung cancer.
   Respiratory status remained stable during hospital stay.
 POLYMYALGIA  RHEUMATICA:  Continue Prednisone 10mg PO daily.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugars well controlled.
   Lines:  PICC line, PIV
   20 Gauge - [**2142-6-26**] 12:00 PM
   Prophylaxis:
   DVT: Holding heparin SQ given acute bleed, ct pneumoboots
   Stress ulcer:  N/A
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor

2142-06-27 06:35:00 Physician Attending Progress Note
Chief Complaint: Hematochezia
   24 Hour Events:
   Tagged red cell scan negative
   Last bloody BM at 10am [**6-26**]
   Access difficult, in for Power PICC today
   Received total 2U PRBC [**6-26**]
 NUCLEAR MEDICINE - At [**2142-6-26**] 03:00 PM
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aching;
   Zocor (Oral) (Simvastatin)
   muscle aching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-6-27**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 53 (53 - 131) bpm
   BP: 124/50(69) {96/48(62) - 139/82(85)} mmHg
   RR: 10 (7 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 53 Inch
                  Total In:
                                                                  2,782 mL
                                                                    283 mL
   PO:
                  TF:
   IVF:
                                                                    650 mL
   Blood products:
                                                                    467 mL
                                                                    283 mL
   Total out:
                                                                  1,730 mL
                                                                  1,100 mL
   Urine:
                                                                    800 mL
                                                                  1,100 mL
   NG:
   Stool:
                                                                    930 mL
   Drains:
   Balance:
                                                                  1,052 mL
                                                                   -817 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   286 K/uL
   10.8 g/dL
   90 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.2 mEq/L
   19 mg/dL
   108 mEq/L
   140 mEq/L
   30.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2142-6-24**]  10:46 AM
                             [**2142-6-24**]  04:33 PM
                             [**2142-6-24**]  10:08 PM
                             [**2142-6-25**]  04:51 AM
                             [**2142-6-25**]  01:04 PM
                             [**2142-6-25**]  06:03 PM
                             [**2142-6-26**]  05:01 AM
                             [**2142-6-26**]  12:32 PM
                             [**2142-6-26**]  09:35 PM
                             [**2142-6-27**]  03:42 AM
   WBC
   13.0
   12.7
   8.2
   Hct
   30.8
   31.6
   26.0
   27.1
   33.2
   27.6
   30
   24.3
   26.9
   30.4
   Plt
   [**Telephone/Fax (3) 3966**]
   Cr
   1.1
   1.0
   1.0
   TCO2
   25
   Glucose
   108
   114
   192
   90
   Other labs: PT / PTT / INR:13.4/18.4/1.1, Differential-Neuts:78.1 %,
   Lymph:17.6 %, Mono:2.9 %, Eos:1.2 %, Lactic Acid:0.8 mmol/L, Ca++:7.7
   mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   Patient presented with LGIB in the setting of recently being started on
   Coumadin for atrial fibrillation. She underwent a colonoscopy which
   showed fresh and old blood in the colon. She then underwent a tagged
   RBC scan which was negative. The patient has not had any bloody stools
   for the past 24 hours and her hematocrit has remained stable.
   -          Hct [**Hospital1 **]
   -          Continue to hold Coumadin; will need to be restarted on
   Plavix and ASA 81mg tomorrow
   -          Advance diet to full liquids and then regular if able to
   tolerate
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE):  Patient has
   significant history with multiple stents. She has not had any chest
   pain during this admission.  She was on ASA and Plavix as an
   outpatient.
   -          Restart ASA and Plavix starting tommorow
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA:
   Restart ASA and Plavix tomorrow.
 RENAL ARTERY STENOSIS (RAS): Restart Plavix and ASA tomorrow.
 ATRIAL FIBRILLATION (AFIB): Recently diagnosed after undergoing
   lobectomy for lung cancer. Her rate has been well controlled but she
   does have episodes where her heart rate does increase to mid 100
   -          Continue Amiodarone
   -          Hold Coumadin; talk to patient
s cardiologist (Dr. [**Last Name (STitle) 3979**]
   re: anticoagulation
   -          Patient may benefit from beta-[**Last Name (LF) 368**], [**First Name3 (LF) 178**] hold off for now
   given acute bleed
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE): Cr 1.0 today. Continue to monitor daily.
 CANCER (MALIGNANT NEOPLASM), LUNG: s/p lobectomy for lung cancer.
   Respiratory status remained stable during hospital stay.
 POLYMYALGIA  RHEUMATICA:  Continue Prednisone 10mg PO daily.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugars well controlled.
   Lines:  PICC line, PIV
   20 Gauge - [**2142-6-26**] 12:00 PM
   Prophylaxis:
   DVT: Holding heparin SQ given acute bleed, ct pneumoboots
   Stress ulcer:  N/A
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor, total time 35 minutes